US03987160
To a stirred solution of sodium (8.0 g.) in dry ethanol (150 ml.) was added ethyl cyanoacetate (12 ml.) followed after 15 minutes by crude cyclohexanecarboxamidine fluorosulphonate (10 g.). The mixture was heated under reflux for 20 hours, evaporated to half volume, water (100 ml.) was added and the pH adjusted to 6 by the addition of glacial acetic acid. After cooling to 0° C, the solid was filtered off and washed with water and acetone to give 4-amino-2-cyclohexylpyrimid-6-one (18 g.), m.p. 274°-276° C. (with decomposition).

reactant | sodium | 8.0 g | [Na] | Na
reactant | ethyl cyanoacetate | 12 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | cyclohexanecarboxamidine fluorosulphonate | 10 g | FS(=O)(=O)O.C1(CCCCC1)C(=N)N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-amino-2-cyclohexylpyrimid-6-one | 18 g | NC=1N=C(NC(C1)=O)C1CCCCC1 | C10H15N3O
